US07365076B2
1-[1-(3′-nitro-1,1′-biphenyl-4-yl)-2-piperazin-1-ylethyl]cyclohexanol dihydrochloride
In an analogous manner to Example 135, step 4, 1-[1-(3′-nitro-1,1′-biphenyl-4-yl)-2-piperazin-1-yethyl]cyclohexanol dihydrochloride was prepared from tert-butyl 4-[2-(1-hydroxycyclohexyl)-2-(3′-nitro-1,1′-biphenyl-4-yl)ethyl]piperazine-1-carboxylate. MS (ES) m/z 410.3 ([M+H]+); HRMS: calcd for C24H31N3O3.2.00 HCl, 481.1899; found (ESI), 410.2452.

reactant | tert-butyl 4-[2-(1-hydroxycyclohexyl)-2-(3′-nitro-1,1′-biphenyl-4-yl)ethyl]piperazine-1-carboxylate | OC1(CCCCC1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C29H39N3O5
reactant | HCl | Cl | ClH
product | 1-[1-(3′-nitro-1,1′-biphenyl-4-yl)-2-piperazin-1-ylethyl]cyclohexanol dihydrochloride | Cl.Cl.[N+](=O)([O-])C=1C=C(C=CC1)C1=CC=C(C=C1)C(CN1CCNCC1)C1(CCCCC1)O | InChI=1S/C24H31N3O3.2ClH/c28-24(11-2-1-3-12-24)23(18-26-15-13-25-14-16-26)20-9-7-19(8-10-20)21-5-4-6-22(17-21)27(29)30;;/h4-10,17,23,25,28H,1-3,11-16,18H2;2*1H
